US05112853
5-Hydroxy-2-methyl-5-(2-trimethylsilylfuran-4-yl)-2-pentenal
To a stirred solution of 5-trimethylsilyl-3-furaldehyde (0.382 g., 2.27 mmol) in dry methylene chloride (15 ml) at -50° under argon was added dropwise boron trifloride etherate (0.28 ml, 2.3 mmol). This addition was followed by the dropwise addition of 2-methyl-1-trimethylsilyloxy-1,3-butadiene (0.356 g., 2.3 mmol). The solution was stirred at -50° to -60° for 18 hours, quenched by the addition of several ml saturated sodium bicarbonate solution, warmed to room temperature and poured into methylene chloride. The organic portion was washed once with saturated bicarbonate solution, once with water, once with saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated to give a yellow oil which consisted of several components by TLC. The mixture was applied to a chromatography column (silica) and eluted with 30% ethyl acetate/hexane. Eluted last was the desired alcohol, which was concentrated to give a yellow gum.

reactant | 5-trimethylsilyl-3-furaldehyde | 2.27 mmol, 0.382 g | C[Si](C1=CC(=CO1)C=O)(C)C | C8H12O2Si
reactant | boron trifloride etherate | 2.3 mmol, 0.28 ml | B(F)(F)F.CCOCC
reactant | 2-methyl-1-trimethylsilyloxy-1,3-butadiene | 2.3 mmol, 0.356 g | CC(=CO[Si](C)(C)C)C=C | C8H16OSi
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 5-Hydroxy-2-methyl-5-(2-trimethylsilylfuran-4-yl)-2-pentenal | OC(CC=C(C=O)C)C=1C=C(OC1)[Si](C)(C)C | C13H20O3Si
